US06486184B2
A solution of rac-(3-chloro-4-methanesulfonyl-phenyl)-cyclopentyloxy-acetic acid methyl ester (395 mg, 1.14 mmol) in ethanol (15 mL) at 25° C. was treated with a solution of potassium hydroxide (320 mg, 5.69 mmol) in water (3 mL) and the mixture was stirred at 25° C. After 3 h, the reaction was diluted with water and evaporated under reduced pressure. The concentrate was acidified to pH 2 with an aqueous solution of 1N hydrochloric acid and extracted with dichloromethane (3×15 mL). The combined organic extracts were dried over sodium sulfate, filtered and evaporated in vacuo. The residual oil was purified by flash chromatography (Merck Silica gel 60, 230-400 mesh, 50/50 hexanes/ethyl acetate plus 1% acetic acid) to furnish rac-(3-chloro-4-methanesulfonyl-phenyl)-cyclopentyloxy-acetic acid (364 mg, 96% yield) as a colorless oil: EI-HRMS m/e calcd for C14H17ClSO5 (M+) 332.0485, found 332.0486.

reactant | rac-(3-chloro-4-methanesulfonyl-phenyl)-cyclopentyloxy-acetic acid methyl ester | 1.14 mmol, 395 mg | COC(C(OC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C15H19ClO5S
reactant | potassium hydroxide | 5.69 mmol, 320 mg | [OH-].[K+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | water | 3 mL | O | H2O
product | rac-(3-chloro-4-methanesulfonyl-phenyl)-cyclopentyloxy-acetic acid | 364 mg, 96% yield | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)O)OC1CCCC1 | C14H17ClO5S
